US05491144
b) 4,5-Bis(anilino)phthalic acid dimethyl ester
A solution of 5.6 g (15 mmol) of 4,5-bis(trimethylsilyloxy)cyclohexa-1,4-diene-1,2-dicarboxylic acid dimethyl ester and 5.5 ml (60 mmol) of aniline in 60 ml of glacial acetic acid is boiled under reflux for 4 hours. The reaction mixture is cooled, the solvent is evaporated off and the dark-brown residue is dissolved in dichloromethane and the solution is washed in succession with 20 ml of 1N HCl, 50 ml of saturated NaHCO3 and twice with 20 ml of water, dried with sodium sulfate and concentrated by evaporation. The crude product is recrystallized from ethanol, yielding the title compound in the form of yellow crystals, m.p. 178°, FAB-MS: 377 [M+ +H].

reactant | 4,5-bis(trimethylsilyloxy)cyclohexa-1,4-diene-1,2-dicarboxylic acid dimethyl ester | 15 mmol, 5.6 g | COC(=O)C1=C(CC(=C(C1)O[Si](C)(C)C)O[Si](C)(C)C)C(=O)OC | C16H28O6Si2
reactant | aniline | 60 mmol, 5.5 ml | NC1=CC=CC=C1 | C6H7N
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 4,5-Bis(anilino)phthalic acid dimethyl ester | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1=CC=CC=C1)NC1=CC=CC=C1)=O | C22H20N2O4
